US06620961B1
0.70 g of methyl N-(3-phenylbenzyl)carbamate in tetrahydrofuran (20 ml) was stirred together with 0.15 g of 60% sodium hydride at room temperature for 30 minutes. 0.52 g of propargyl bromide was added dropwise at room temperature, and the resulting solution was stirred overnight. After the reaction, the reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was separated, dried over anhydrous magnesium sulfate and evaporated under reduced pressure for removal of the solvent. The residue was purified by silica gel column chromatography to give 0.54 g of methyl N-(3-phenylbenzyl)N-(2-propynyl)carbamate as a yellow transparent viscous liquid.

reactant | methyl N-(3-phenylbenzyl)carbamate | 0.70 g | C1(=CC=CC=C1)C=1C=C(CNC(OC)=O)C=CC1 | C15H15NO2
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | propargyl bromide | 0.52 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl N-(3-phenylbenzyl)N-(2-propynyl)carbamate | 0.54 g | C1(=CC=CC=C1)C=1C=C(CN(C(OC)=O)CC#C)C=CC1 | C18H17NO2
